US08232289B2
2-Chloro-4,4-difluoro-1′-[[1-(3-isoxazol-3-yl-2-pyridyl)-3-methyl-pyrazol-4-yl]methyl]spiro[5H-thieno[2,3-c]pyran-7,4′-piperidine]
This compound is essentially prepared as described in Example 36 by using 2-chloro-4,4-difluoro-1′-[(3-methyl-1H-pyrazol-4-yl)methyl]spiro[5H-thieno[2,3-c]pyran-7,4′-piperidine] and 3-(2-bromo-pyrid-3-yl)isoxazole as starting material. Residue is purified by normal phase Isco chromatography (ethyl acetate is used as eluent) to yield 45% of the title compound: mass spectrum (m/z): 518 (M+1)

reactant | 2-chloro-4,4-difluoro-1′-[(3-methyl-1H-pyrazol-4-yl)methyl]spiro[5H-thieno[2,3-c]pyran-7,4′-piperidine] | ClC1=CC2=C(S1)C1(CCN(CC1)CC=1C(=NNC1)C)OCC2(F)F | C16H18ClF2N3OS
reactant | 3-(2-bromo-pyrid-3-yl)isoxazole | BrC1=NC=CC=C1C1=NOC=C1 | C8H5BrN2O
product | 2-Chloro-4,4-difluoro-1′-[[1-(3-isoxazol-3-yl-2-pyridyl)-3-methyl-pyrazol-4-yl]methyl]spiro[5H-thieno[2,3-c]pyran-7,4′-piperidine] | 45% | ClC1=CC2=C(S1)C1(CCN(CC1)CC=1C(=NN(C1)C1=NC=CC=C1C1=NOC=C1)C)OCC2(F)F | C24H22ClF2N5O2S
